US05136042
In a similar apparatus to Example 1,5.7 g (0.04 mole) of 2-methylthiazole-5-carboxylic acid were suspended in 100 ml of toluene. Under heating and reflux, phosgene was blown at a rate of 390 ml/hr for 10 hours (0.17 mole). After completion of the blowing, stirring was continued for additional 2 hours. After completion of the reaction, the reaction mixture was filtered and the filtrate was concentrated to obtain 5.7 g of 2-methylthiazole-5-carboxylic acid chloride. Its purity and yield were 95.0% and 95.0%, respectively. NMR (δCDCl 3/TMS, ppm): 2.79(3H,s).

reactant | 2-methylthiazole-5-carboxylic acid | 0.04 mole, 5.7 g | CC=1SC(=CN1)C(=O)O | C5H5NO2S
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-methylthiazole-5-carboxylic acid chloride | 5.7 g | CC=1SC(=CN1)C(=O)Cl | C5H4ClNOS
